US06291455B1
Diethyl azodicarboxylate (123 μl, 0.88 mmol) was added portionwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (250 mg, 0.8 mmol), (prepared as described for the starting material in Example 4), triphenylphosphine (228 mg, 0.96 mmol) and 3-methoxy-1-propanol (71 mg, 0.8 mmol) in methylene chloride (20 ml) cooled at 0° C. The mixture was then allowed to warn to ambient temperature and stirred for 18 hours. The resulting precipitate was removed by filtration and the solvent removed from the filtrate by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol/concentrated aqueous ammonia (100/8/1). The purified oil was treated with ethereal hydrogen chloride and the volatiles were then removed by evaporation. The residue was triturated with ether and the solid collected by filtration to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-methoxypropoxy)quinazoline hydrochloride (100 mg, 32%) as a yellow solid.

reactant | Diethyl azodicarboxylate | 0.88 mmol, 123 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.8 mmol, 250 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 0.96 mmol, 228 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methoxy-1-propanol | 0.8 mmol, 71 mg | COCCCO | C4H10O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-methoxypropoxy)quinazoline hydrochloride | 100 mg, 32% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCOC)C=C1)F | InChI=1S/C19H19ClFN3O3.ClH/c1-25-6-3-7-27-18-10-16-13(9-17(18)26-2)19(23-11-22-16)24-15-5-4-12(20)8-14(15)21;/h4-5,8-11H,3,6-7H2,1-2H3,(H,22,23,24);1H
